* D:\OneDrive\Documentos\Facultad\Teoria de Circuitos 2\Teoria-de-Circuitos-2\20230726\LTspice\20230726 - Ejercicio 1.asc
V1 N001 N003 AC 1 0
R1 N002 N001 1.41421356237305
C1 0 N001 1
L1 0 N001 1
R2 0 N003 1.41421356237305
C2 N002 N003 1
L2 N002 N003 1
RL N002 0 1
.ac dec 100 0.001 1000
;.tran 1
.backanno
.end
