* D:\OneDrive\Documentos\Facultad\Teoria de Circuitos 2\Teoria-de-Circuitos-2\Simulaciones\20230726\20230726 - Ejercicio 1 - item c.asc
R5 N001 vi {R5}
XU1 N005 N003 N004 opamp Aol=100K GBW=10Meg
XU2 N005 N001 N006 opamp Aol=100K GBW=10Meg
C1 N003 vi {C1} Rser=0 Lser=0 Rpar=0
R2 N003 0 {R2}
R1 N006 N003 {R1}
R3 N004 N005 {R3}
R4 N001 N004 {R4}
C2 N005 N006 {C2} Rser=0 Lser=0 Rpar=0
V1 vi 0 AC 1 0
R6 N002 N004 1
R7 vo N002 1
XU4 N002 0 vo opamp Aol=100K GBW=10Meg
* Configuración de la simulación
.inc opamp.sub
.ac dec 1000 0.001 1000
.param C1= 0.7071067811865475
.param valor = 1
.param C2= 1.4142135623730951
.param R1= {valor}
.param R2= {valor}
.param R3= {valor}
.param R4= {valor}
.param R5= {valor}
.backanno
.end
