* D:\OneDrive\Documentos\Facultad\Teoria de Circuitos 2\Teoria-de-Circuitos-2\Simulaciones\20240513\20240513_Ejercicio1_d.asc
C1 Lin1 vi 0.0246
V1 vi 0 AC 1 0
R1 Lout1 0 1
C2 Lin2 N005 0.02238
R2 Lout2 0 1
XU1 N006 Lout1 N005 opamp Aol=100K GBW=10Meg
R3 N006 0 1
R4 N005 N006 4.76
XU2 N002 Lin1 N001 opamp Aol=100K GBW=10Meg
XU3 N002 N004 N003 opamp Aol=100K GBW=10Meg
R5 N003 Lin1 10
R7 N001 N002 10
R8 N004 N001 1
R9 Lout1 N004 10
C6 N002 N003 0.02096
XU4 N008 Lin2 N007 opamp Aol=100K GBW=10Meg
XU5 N008 N010 N009 opamp Aol=100K GBW=10Meg
R10 N009 Lin2 10
R12 N007 N008 10
R13 N010 N007 1
R14 Lout2 N010 10
C11 N008 N009 0.019077
.ac dec 100000 0.01 100
.lib opamp.sub
.backanno
.end
