* D:\OneDrive\Documentos\Facultad\Teoria de Circuitos 2\Teoria-de-Circuitos-2\Simulaciones\20240513\Draft1.asc
Rg Lin N002 1
R2 N003 N001 2
R1 Lin N001 2
L1 N001 vo 10 Rser=0
C1 N003 vo 0.5 Rser=0
Ro vo 0 1
V1 N002 0 AC 1 0
.ac dec 100000 0.001 100
.net V(vo) V1
.backanno
.end
