* D:\OneDrive\Documentos\Facultad\Teoria de Circuitos 2\Teoria-de-Circuitos-2\Simulaciones\20230927\Ejercicio1.asc
R1 v1 vg 1
L1 N001 v1 1 Rser=0
C1 N001 0 2 Rser=0
L2 Vo N001 1 Rser=0
R2 Vo 0 1
V1 vg 0 AC 1 0
.ac dec 1000 0.01 10
.backanno
.end
