* D:\OneDrive\Documentos\Facultad\Teoria de Circuitos 2\Teoria-de-Circuitos-2\Simulaciones\20230927\Ejercicio2.asc
Rg N002 N001 1
C1 N002 0 {C1}
L1 N003 N002 {L1}
C2 vo N003 {C2}
V1 N001 0 AC 1 0
R1 vo 0 0.00001
.ac dec 10000 0.001 100
.param L1 0.5714285714
.param C1 0.5
.param C2 3.5
.backanno
.end
