* D:\OneDrive\Documentos\Facultad\Teoria de Circuitos 2\Teoria-de-Circuitos-2\Simulaciones\20240513\ejercicio3_desnormalizado.asc
L1 N003 N002 {L1}
L3 vo N003 {L3}
C2 N003 0 {C2}
R1 vo 0 {R2}
R2 N002 N001 {R1}
V1 N001 0 AC 1 0
.ac dec 1k 1 100G
.param L1 3.892770753084668e-08
.param C2 1.6528346943388724e-12
.param L3 1.4098342746437819e-08
.param R1 75
.param R2 150
.backanno
.end
